US04699915
To a refluxing suspension of 3-(4-nitrophenyl)-pyrazole (18 g) and Raney nickel (3.3 g) in methanol (190 ml) was added dropwise a solution of 85% hydrazine hydrate (22 g) in methanol (50 ml). The solution was refluxed for 30 minutes more, filtered and evaporated to dryness. The oily residue, after crystallization from water, furnished 14.5 g of 3-(4-aminophenyl)-pyrazole; M.p. 104° C. 3-(3-Aminophenyl)-pyrazole, M.p. 144°-145° C., was prepared in a similar manner starting from 3-nitroacetophenone.

reactant | 3-(4-nitrophenyl)-pyrazole | 18 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC=C1 | C9H7N3O2
reactant | hydrazine hydrate | 22 g | O.NN
catalyst | Raney nickel | 3.3 g | [Ni] | Ni
solvent | methanol | 190 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 3-(4-aminophenyl)-pyrazole | 14.5 g | NC1=CC=C(C=C1)C1=NNC=C1 | C9H9N3
